US08106091B2
Stage 5: Cyclopentyl 5-(4-bromophenoxy)-N-(tert-butoxycarbonyl)-L-norvalinate
To a solution of 4-bromophenol (261 mg, 1.510 mmol) in acetonitrile (2 ml) under nitrogen, was added BEMP (397 μl, 1.373 mmol). The mixture was stirred at 50° C. for 30 minutes before being cooled to room temperature and (S)-5-bromo-2-tert-butoxycarbonylamino-pentanoic acid cyclopentyl ester (500 mg, 1.373 mmol) added as a solution in acetonitrile (2 ml). The reaction was heated at 50° C. for a further 1 hour and then the mixture was analysed by LCMS. The reaction was poured onto 2M Na2CO3 (100 ml) and extracted with EtOAc (2×100 ml). The combined organic layers were washed with 2M Na2CO3 (3×100 ml) and brine (100 ml), dried over magnesium sulphate, filtered and concentrated in vacuo to afford a colourless oil. MP-carbonate (1.0 g) was added to a solution of the crude product in dichloromethane (3.4 ml) and the solution was left overnight at room temperature. LCMS indicated complete removal of 4-bromophenol and so the reaction was filtered to remove the MP-carbonate and the resin was washed with DCM (2×50 ml). The filtrate was concentrated to afford the crude product which was purified by column chromatography eluting with 5% EtOAc in iso-hexane. Yield of title compound=435 mg, 0.953 mmol, 69.4% yield. m/z 456 and 458 [M+H]+.

reactant | 4-bromophenol | 1.510 mmol, 261 mg | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | BEMP | 1.373 mmol, 397 μl | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | (S)-5-bromo-2-tert-butoxycarbonylamino-pentanoic acid cyclopentyl ester | 1.373 mmol, 500 mg | C1(CCCC1)OC([C@H](CCCBr)NC(=O)OC(C)(C)C)=O | C15H26BrNO4
reactant | Na2CO3 | 2M, 100 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | carbonate | 1.0 g | C([O-])([O-])=O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | dichloromethane | 3.4 ml | ClCCl | CH2Cl2
product | Cyclopentyl 5-(4-bromophenoxy)-N-(tert-butoxycarbonyl)-L-norvalinate | 69.4% yield | BrC1=CC=C(OCCC[C@H](NC(=O)OC(C)(C)C)C(=O)OC2CCCC2)C=C1 | C21H30BrNO5
